US04377522
18.2 g (0.056 mol) of 5-(o-fluorophenyl)-1,3-dihydro-3,3-dimethyl-7-nitro-2H-1,4-benzodiazepin-2-one are dissolved in 150 ml of dry acetone, treated with 18 g of powdered potassium carbonate and 9 ml of methyl iodide and stirred at room temperature for 21/2 hours. Subsequently, the reaction mixture is evaporated and the residue is partitioned between methylene chloride and water. After separating the organic phase, it is extracted several times more with methylene chloride. The combined organic extracts are then dried and evaporated. The residue is recrystallized from benzene/hexane/petroleum ether and gives 5-(o-fluorphenyl)-1,3-dihydro-1,3,3-trimethyl-7-nitro-2H-1,4-benzodiazepin-2-one of melting point 128°-129°.

reactant | 5-(o-fluorophenyl)-1,3-dihydro-3,3-dimethyl-7-nitro-2H-1,4-benzodiazepin-2-one | 0.056 mol, 18.2 g | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=C(C=C2)[N+](=O)[O-])=O)(C)C | C17H14FN3O3
reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 9 ml | CI | CH3I
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 5-(o-fluorphenyl)-1,3-dihydro-1,3,3-trimethyl-7-nitro-2H-1,4-benzodiazepin-2-one | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=C(C=C2)[N+](=O)[O-])C)=O)(C)C | C18H16FN3O3
